US08202873B2
3′-(4-Chloromethyl-phenyl)-4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl
Add thionyl chloride (0.4 mL, 5.49 mmol) to a solution of {4-[4-(3-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol (474 mg, 1.08 mmol) in DCM (20 mL). Maintain stirring for 3 hr. Concentrate to dryness to give the title compound as a yellow material (545 mg) MS (ES): m/z=459/460/461[M+H]+.

reactant | thionyl chloride | 5.49 mmol, 0.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | {4-[4-(3-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol | 1.08 mmol, 474 mg | CC1=NN(C=C1CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO)C1=CC=CC=C1 | C26H28N6O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-Chloromethyl-phenyl)-4-(3-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | ClCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C1=CC=CC=C1)C | C26H27ClN6
